US04904276
EXAMPLE 10 Preparation of 2-methoxy-4-n-butylamin-5-nitrophenol
A solution of 0.03 mol (6.9 g) of 2-n-butylamino-4,5-methylenedioxy-1-nitrobenzene, prepared according to Example 4, in 45 ml of a 30% strength solution of sodium methylate in methanol is brought for 15 minutes to the refluxing temperature of the methanol.

reactant | 2-n-butylamino-4,5-methylenedioxy-1-nitrobenzene | 0.03 mol, 6.9 g | C(CCC)NC1=C(C=C2C(=C1)OCO2)[N+](=O)[O-] | C11H14N2O4
reactant | sodium methylate | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 2-methoxy-4-n-butylamin 5-nitrophenol | COC(C)CCN.[N+](=O)([O-])C=1C=CC=C(C1)O | InChI=1S/C6H5NO3.C5H13NO/c8-6-3-1-2-5(4-6)7(9)10;1-5(7-2)3-4-6/h1-4,8H;5H,3-4,6H2,1-2H3
